US07601754B2
To a stirring suspension of N-(4-methoxy-phenyl)-acetamide (5.253 g, 32 mmol) and acetyl chloride (6.6 ml, 93 mmol, 2.9 equ) in dichloromethane (55 ml) was added aluminium trichloride (14.55 g, 109 mmol, 3.4 equ) in portions over 90 minutes. The reaction was then heated to reflux for 4.5 hours and cooled overnight. The mixture was poured onto ice then extracted into dichloromethane (5×), dried (MgSO4) and concentrated in vacuo to give N-(3-acetyl-4-hydroxy-phenyl)-acetamide (5.336 g, 87%) as a pale green solid.

reactant | N-(4-methoxy-phenyl)-acetamide | 32 mmol, 5.253 g | COC1=CC=C(C=C1)NC(C)=O | C9H11NO2
reactant | acetyl chloride | 93 mmol, 6.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminium trichloride | 109 mmol, 14.55 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
product | N-(3-acetyl-4-hydroxy-phenyl)-acetamide | 5.336 g, 87% | C(C)(=O)C=1C=C(C=CC1O)NC(C)=O | C10H11NO3
